US04810713
1-(3-Chloropropoxy)-3,5-dimethoxybenzene
A mixture of 3,5-dimethoxyphenol, 100.0 g (0.6486 mole), chlorobromopropane, 148.0 g (0.96 mole) and potassium carbonate, 89.6 g (0.96 mole) was heated overnight at gentle reflux in 600 ml of acetone. The reaction mixture was cooled at room temperature, filtered, and stripped to dryness via a rotary evaporator. The resulting oil was dissolved in chloroform and the solution extracted with 5% aqueous sodium hydroxide; removal of chloroform gave a dark brown oil. A 5 g sample of the oil was pumped in vacuo overnight at 80° C. This produced 3.23 g (53.2% yield based on the aliquot taken) of dark brown oil.

reactant | 3,5-dimethoxyphenol | COC=1C=C(C=C(C1)OC)O | C8H10O3
reactant | chlorobromopropane | ClC(CC)Br | C3H6BrCl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 600 ml | CC(=O)C | C3H6O
product | 1-(3-Chloropropoxy)-3,5-dimethoxybenzene | 53.2% yield | ClCCCOC1=CC(=CC(=C1)OC)OC | C11H15ClO3
